US06310056B1
To a solution of 2.42 mg of 7-hydroxymethylimidazo[5,1-b]thiazole in 15 ml of DMF were added under ice-cooling 1.4 g of imidazole and 2.73 g of t-butyldimethylsilylchloride, and the mixture was stirred at the same temperature for 2 hours. DMF was removed under reduced pressure, and the residue was extracted two times with ethyl acetate. The organic layer was washed two times with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and removed under reduced pressure to give 7-(t-butyldimethylsilyloxy)methylimidazo[5,1-b]thiazole in a yield of 4.02 g.

reactant | 7-hydroxymethylimidazo[5,1-b]thiazole | 2.42 mg | OCC=1N=CN2C1SC=C2 | C6H6N2OS
reactant | imidazole | 1.4 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilylchloride | 2.73 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 7-(t-butyldimethylsilyloxy)methylimidazo[5,1-b]thiazole | [Si](C)(C)(C(C)(C)C)OCC=1N=CN2C1SC=C2 | C12H20N2OSSi
